US08030500B2
4-Fluoro-1-(3-(pyrazin-2-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine
1-(3-Bromophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine (131 mg, 0.29 mmol), 2-(tributylstannyl)pyrazine (0.096 mL, 0.31 mmol) and Pd(Ph3P)4 (33.6 mg, 0.03 mmol) were dissolved in DMF (2 mL) and the reaction mixture was heated in a microwave reactor at 180° C. for 15 min. Brine was added and the mixture was extracted with EtOAc (3×). The combined organic phases were dried (Na2SO4), filtered and concentrated in vacuo. Purification by preperative HPLC afforded the title compound 18 mg (14% yield).

reactant | 1-(3-Bromophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 0.29 mmol, 131 mg | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)(F)F | C20H12BrF4N3
reactant | 2-(tributylstannyl)pyrazine | 0.31 mmol, 0.096 mL | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Brine | [Cl-].[Na+].O
catalyst | Pd(Ph3P)4 | 0.03 mmol, 33.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Fluoro-1-(3-(pyrazin-2-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 18 mg, 14% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C(F)(F)F)C1=CC(=CC=C1)C1=NC=CN=C1)N | C24H15F4N5
